US07576241B2
70.1) 1-(4-nitrophenyl)-4-phenyl-1,2,3,6-tetrahydropyridine
A mixture of 0.5 g (2.5 mmol) of 4-phenyl-1,2,3,6-tetrahydropyridine, 0.51 ml (2.8 mmol) of diisopropylethylamine, 0.71 g (5 mmol) of K2CO3, 0.40 g ((2.8 mmol) of 4-fluoronitrobenzene in 10 ml of DMF is heated at 100° C., for 24 hours. At the end of the reaction, the mixture is poured into 25 ml of a saturated solution of NaHCO3 and the product is extracted using 25 ml of AcOEt. After decantation, the organic solution is washed twice with 20 ml of water followed by 20 ml of brine, drying over magnesium sulphate, filtration and evaporation of the solvent under vacuum produce a yellow solid with a yield of 42%. Melting point: 185-192° C. (decomposition).

reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 2.5 mmol, 0.5 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | diisopropylethylamine | 2.8 mmol, 0.51 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | K2CO3 | 5 mmol, 0.71 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluoronitrobenzene | 2.8 mmol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(4-nitrophenyl)-4-phenyl-1,2,3,6-tetrahydropyridine | yield of 42% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(=CC1)C1=CC=CC=C1 | C17H16N2O2
